US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-phenylthiophene-2-carbaldehyde and p-(trifluoromethyl)acetophenone, 3-(4-phenylthiophen-2-yl)-1-(4-(trifluoromethyl)phenyl)prop-2-en-1-one was obtained as yellow solid.

reactant | 4-phenylthiophene-2-carbaldehyde | C1(=CC=CC=C1)C=1C=C(SC1)C=O | C11H8OS
reactant | p-(trifluoromethyl)acetophenone | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
product | 3-(4-phenylthiophen-2-yl)-1-(4-(trifluoromethyl)phenyl)prop-2-en-1-one | C1(=CC=CC=C1)C=1C=C(SC1)C=CC(=O)C1=CC=C(C=C1)C(F)(F)F | C20H13F3OS
